
.SUBCKT VCO2 FB1 A B params: fmin=100k fmax=1Meg DT=50n SS=100u
*
Rdum1 3 0 1G
Rdum2 5 0 1G
Rdum3 8 0 1G
* 
G4 0 3 Value = { {Fmin*2}*20p }
G3 0 5 Value = { V(FBCC)*1.9*10p*({2*Fmax}/(1-{2*Fmax}*{DT})-{2*Fmin})/5 }
G5 0 4 Value = { 2*10p/{DT} }
C1 8 0 10p IC=0
Xcomp 8 6 cmp COMPAR params: VHIGH=5
E2 6 0 Value = { IF ( V(CMP) < 3, 3, 1 ) }
G1 8 0 Value = { IF ( V(CMP) < 3, 0, I(VDT)+I(VFmin)+I(Vvco) ) }
VDT 4 0
X1 cmp 10 0 0 10 13 TOGGLE_A
X2 13 14 A AND2
X3 10 14 B AND2
X4 cmp 14 INV
R3 FB1 0 20k
Vvco 5 8
X10 20 19 FB AMPSIMP params: VHIGH=6 VLOW=1m
V4 18 0 DC=100m
R4 18 19 10k
R5 19 FB 10k
X12 FB1 17 GAIN
R8 17 20 10k
R9 20 0 10k
Vfmin 3 8
R6 29 FB 10k
D1 29 28 _D1_mod
V5 28 0 DC=5
CSS 31 0 {10u*SS}
I1 28 31 DC=50u
D2 31 28 DN4148
D3 29 FBCC _D1_mod
D4 30 FBCC _D1_mod
E1 30 0 28 31 1
*
.MODEL DN4148 D BV=100V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
.MODEL _D1_mod D N=10m
*
.ENDS
**********








.SUBCKT FFLOP_A  6 8 2 1
*             S R Q Q\
A1 6 8 0 0 0 1 2 0 SRFLOP TD=10n Vhigh=5V REF=0.8
* S R 0 0 0 QB Q 0
.ENDS FFLOP

**** TOGGLE CIRCUIT ****
.SUBCKT TOGGLE_A 1  2 11 12 5  6
*            CLK D R  S  QB Q 
A1 2 0 1 11 12 5 6 0 DFLOP TD=10n VHIGH=5 REF=0.8
* D 0 CLK S R QB Q 0 
*A2 1 0 2 3 4 6 5 0 DFLOP
.ENDS TOGGLE


**** 2 INPUT NOR CIRCUIT ****
.SUBCKT NOR2_A 1 2 3
A1 1 2 0 0 0 3 0 0 OR TD=10n VHIGH=5 REF=0.8
.ENDS NOR2
*$

**** 2 INPUT OR CIRCUIT ****
.SUBCKT OR2_A 1 2 3
A1 1 2 0 0 0 0 3 0 OR TD=10n VHIGH=5 REF=0.8
.ENDS OR2

**** 2 INPUT AND GATE ****
.SUBCKT AND2_A 1 2 3
A1 1 2 0 0 0 0 3 0
.ENDS AND2

.SUBCKT GAIN  1  2
*Connections: In Out
*Parameters: K Gain
E1 2 0 1 0 1
.ENDS
*

**********
.SUBCKT FFLOP 6 8 2 1
*             S R Q Q\
E_BQB 10 0 VALUE = { IF ( (V(8)<2.5) & (V(2)>2.5), 0, 5V ) }
E_BQ  20 0 VALUE = { IF ( (V(6)<2.5) & (V(1)>2.5), 0, 5V ) }
RD1   10 1 100
CD1   1 0 10P IC=5
RD2   20 2 100
CD2   2 0 10P IC=0
.ENDS FFLOP
*******
.SUBCKT DFFLOP 1  2 11 12 5  6
*            CLK D R  S  QB Q 
A1 2 0 1 11 12 5 6 0 DFLOP TD=10n VHIGH=5 REF=0.8
* D 0 CLK S R QB Q 0 
*A2 1 0 2 3 4 6 5 0 DFLOP
.ENDS DFFLOP
***** INTERNAL F_FLOP DEFINITION ****

.SUBCKT INV_64 1 2
E1 3 0 VALUE = { IF ( V(1)>2.5, 100m, 10 ) }
R1 3 2 10
C1 2 0 10P IC=10
.ENDS INV_64
*******
.SUBCKT OR2 1 2 3
E_B1 4 0 VALUE = { IF ( (V(1)>2.5) | (V(2)>2.5), 5V, 0 ) }
RD 4 3 10
CD 3 0 10P
.ENDS OR2
*******
.SUBCKT INV 1 2
E1 3 0 VALUE = { IF ( V(1)>2.5V, 100m, 5 ) }
R1 3 2 10
C1 2 0 10P
.ENDS INV
*******
.SUBCKT AND2 1 2 3
E_B1 4 0 VALUE = { IF ( (V(1)>2.5) & (V(2)>2.5), 5V, 0 ) }
RD 4 3 10
CD 3 0 10P
.ENDS AND2
*******
.SUBCKT 1395MOD in out params: Fmax=500k Fmin=50k
*
V16 1 0 DC=1
R19 1 2 10k
R20 2 out 10k
R21 in 4 10k
R22 4 0 10k
X6 4 2 out AMPSIMP params: VHIGH={Fmax/100k} VLOW={Fmin/100k}
.ENDS

.model MBR6545  D(Is=183.5n Rs=1.6m Ikf=5.736 N=1 Xti=0 Eg=1.11 Cjo=4.498n
+                               M=.478 Vj=.75 Fc=.5 Isr=1.376u Nr=2)
*                               Motorola        pid=MBR6535     case=DO5
*                               88-09-21 rmn
*$

.SUBCKT COMPAR NINV INV OUT params: VHIGH=12 VLOW=100m
E1 4 0 Value = { IF ( V(NINV,INV) > 0, {VHIGH}, {VLOW} ) }
RO 4 OUT 10
CO OUT 0 10PF
.ENDS
.SUBCKT AMPSIMP 1 5 7  params: POLE=30 GAIN=30000 VHIGH=4V VLOW=100mV
*               + - OUT
G1 0 4 1 5 100u
R1 4 0 {GAIN/100u}
C1 4 0 {1/(6.28*(GAIN/100u)*POLE)}
E1 2 0 4 0 1
Ro 2 7 10
Vlow 3 0 DC={VLOW}
Vhigh 8 0 DC={VHIGH}  
Dlow 3 4 DCLP
Dhigh 4 8 DCLP
.MODEL DCLP D N=0.01
.ENDS
*
.SUBCKT GAIN  1  2
*Connections: In Out
*Parameters: K Gain
E1 2 0 1 0 1
.ENDS
*

.SUBCKT NAND30_64 1 2 3 4
A1 1 2 3 0 0 0 4 0 ANDTD=10N VHIGH=10 REF=0.8
.ENDS NAND30_64

.SUBCKT NAND31_64 1 2 3 4
A1 1 2 3 0 0 0 4 0 ANDTD=10N VHIGH=10 REF=0.8
.ENDS NAND31_64
*